US08791142B2
Step 2: tert-butyl 2-(((5-(N′-hydroxycarbamimidoyl)pyridin-2-yl)methyl)(methyl)amino)acetate
A solution of tert-butyl 2-(((5-cyanopyridin-2-yl)methyl)(methyl)amino)acetate (2.17 g; 8.31 mmol) and 50% aqueous hydroxylamine (2.50 mL; 40.8 mmol) in ethanol (40 mL) was heated at 60° C. for 2 hours. The solvent was evaporated in vacuo. The residue was partitioned between DCM and water. The organic phase was poured through a hydrophobic frit and evaporated in vacuo. The residue was triturated with ether to afford the title product as an off-white solid (1.87 g, 77%). 1H NMR (DMSO-d6, 400 MHz) δ 9.81 (1 H, s), 8.79 (1 H, d, J=2 Hz), 8.03 (1 H, dd, J=8.2, 2.2 Hz), 7.48 (1 H, d, J=8.2 Hz), 5.97 (2 H, br s), 3.80 (2 H, s), 2.32 (3 H, s), 1.46 (9 H, s).

reactant | tert-butyl 2-(((5-cyanopyridin-2-yl)methyl)(methyl)amino)acetate | 8.31 mmol, 2.17 g | C(#N)C=1C=CC(=NC1)CN(CC(=O)OC(C)(C)C)C | C14H19N3O2
reactant | hydroxylamine | 40.8 mmol, 2.50 mL | NO | H3NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | tert-butyl 2-(((5-(N′-hydroxycarbamimidoyl)pyridin-2-yl)methyl)(methyl)amino)acetate | 1.87 g, 77% | ON=C(N)C=1C=CC(=NC1)CN(CC(=O)OC(C)(C)C)C | C14H22N4O3
